US04487626
2-Amino-6-hydroxy-5-(2-propynyl)-4-(3H)-pyrimidinone (XXX, Y'=H)
A mixture of 5.0 g ethyl 2-carboethoxy-4-pentynoate [J. Org. Chem. 40, 851 (1975)] and 2.5 g of guanidine carbonate was heated to reflux in 50 ml of absolute ethanol for 24 hours. The suspension was then cooled to 20° and the solid product was collected. This was subsequently dissolved in 30 ml of water and acidified to pH 3 with 1N hydrochloric acid whereupon a thick precipitate formed. The mixture was warmed briefly to produce a filterable suspension which was then cooled, filtered and rinsed with water, then acetone. The yield of 2-amino-6-hydroxy-5-(2-propynyl)-4(3H)-pyrimidinone was 1.3 g (32%) as a slightly pink powder, m.p. 292°-293° dec. An NMR spectrum (60 MHz) in trifluoroacetic acid solution exhibited absorptions at 2.2 (1H), and 3.6 (2H) indicating the title compound.

reactant | ethyl 2-carboethoxy-4-pentynoate | 5.0 g | C(=O)(OCC)C(C(=O)OCC)CC#C | C10H14O4
reactant | guanidine carbonate | 2.5 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Amino-6-hydroxy-5-(2-propynyl)-4-(3H)-pyrimidinone | NC1=NC(=C(C(N1)=O)CC#C)O | C7H7N3O2
